US05475024
[{2-(1,3-Benzodioxol-5-yl)ethyl}thio]ethyl Nicotinate
4 g of [{2-(1,3-benzodioxol-5-yl)ethyl}thio]ethanol prepared in the same manner as that of Example 2 was dissolved in 20 ml of pyridine. 50 ml of benzene was added to the solution. 4.7 g of nicotinic chloride hydrochloride was added thereto under stirring and the mixture was heated on a boiling water bath for 2 h. The reaction mixture was poured into ice/water. 100 ml of water and sodium hydrogen-carbonate were added thereto to make it weakly alkaline. After extraction with ethyl acetate, the ethyl acetate layer was washed with water four times and dried over sodium sulfate. The solvent was distilled off and the residue was purified according to silica gel column chromatography (benzene:ethyl acetate=3:1) to obtain 2 g of the intended compound in the form of a colorless oil.

reactant | [{2-(1,3-benzodioxol-5-yl)ethyl}thio]ethanol | 4 g | O1COC2=C1C=CC(=C2)CCSC(C)O | C11H14O3S
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | nicotinic chloride hydrochloride | 4.7 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | sodium hydrogen-carbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 100 ml | O | H2O
product | [{2-(1,3-Benzodioxol-5-yl)ethyl}thio]ethyl Nicotinate | 2 g | C(C1=CN=CC=C1)(=O)OCCSCCC1=CC2=C(OCO2)C=C1 | C17H17NO4S
